US06423725B1
1-[1-(1-Methyl-1-phenylethyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one
This was prepared according to the procedure described in Example 1 using 2,2-dimethyl-2-[4-(2-keto-1-benzimidazolinyl)piperidinyl]acetonitrile and phenylmagnesium bromide. Yield was 59%.

reactant | 2,2-dimethyl-2-[4-(2-keto-1-benzimidazolinyl)piperidinyl]acetonitrile | CC(C#N)(N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C | C16H20N4O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 1-[1-(1-Methyl-1-phenylethyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | Yield was 59% | CC(C)(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C21H25N3O
